US05538987
1-(2-Bromophenyl)-1,4-pentanedione
A mixture of 90 g of bromobenzaldehyde, 41 g of methyl vinyl ketone, 24.2 g of 3-benzyl-4-methyl-5-hydroxyethylthiazolium chloride is added with 45 ml of triethylamine. A marked exothermicity is observed, at the end of which the reaction mixture is heated to 70° C. under stirring for 4 h. The resulting mixture is cooled and partitioned between 800 ml of ether and 400 ml of H2O. The aqueous phase is reextracted and the combined organic phases are washed with 10% HCl and with brine, then dried over Na2SO4 and the solvent is evaporated off. 110 g of an orange oil are obtained (93% yield). 1H NMR (CDCl3), δ: 2.22 (s, 3 H), 2.89 (t, 2 H), 3.15 (t, 2 H), 7.18-7.65 (m, 4 H).

reactant | bromobenzaldehyde | 90 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | methyl vinyl ketone | 41 g | C(=C)C(=O)C | C4H6O
catalyst | 3-benzyl-4-methyl-5-hydroxyethylthiazolium chloride | 24.2 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO
solvent | triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
product | 1-(2-Bromophenyl)-1,4-pentanedione | 110 g, 93% yield | BrC1=C(C=CC=C1)C(CCC(C)=O)=O | C11H11BrO2
